US08252781B2
A solution of benzyl 2-(adamantan-2-yl)-3-oxo-1,2-diazetidine-1-carboxylate (100 mg, 0.29 mmol) in tetrahydrofuran (5 mL) was added with 10% palladium carbon (catalyst amount), and under a hydrogen atmosphere, the resultant was stirred at room temperature for 10 hours. The reaction solution was filtered using celite, concentrated in vacuo, and the obtained residue was purified using silica gel chromatography (hexane:ethyl acetate=1:1), and 2-(adamantan-2-yl)-1,2-diazetidin-3-one (34.0 mg, 56.8%) was obtained as a colorless oil.

reactant | benzyl 2-(adamantan-2-yl)-3-oxo-1,2-diazetidine-1-carboxylate | 0.29 mmol, 100 mg | C12C(C3CC(CC(C1)C3)C2)N2N(CC2=O)C(=O)OCC2=CC=CC=C2 | C20H24N2O3
solvent | tetrahydrofuran | 5 mL | O1CCCC1 | C4H8O
catalyst | palladium carbon | [C].[Pd]
product | 2-(adamantan-2-yl)-1,2-diazetidin-3-one | 34.0 mg, 56.8% | C12C(C3CC(CC(C1)C3)C2)N2NCC2=O | C12H18N2O
